datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[C:10](=[C:11]=[N-:12])([C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[C:81]#[N:81]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]([C:11]#[N:12])([C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:81])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:61]1=[CH:62][N:10]=[CH:11][N-:12]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[CH:11]=[N:12][C:61](C)=[CH:62]2)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1.[CH:10]1=[CH:11][NH:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[CH:63]2>>Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1.[CH:10]1([F:20])[CH:11]=[NH+:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[CH:63]2 10,11=10,20;12=11,12;20,21=21"
"C/[CH:10]=[CH:11]\C.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10](C)[CH+:11]C)[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC1=CC(C)=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C(C)=C1.C[N:14](C)[C:13]1=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]1>>CC1=CC(C)=C([N+]2=C([C:22](=[CH:21][CH:20]([N:10]3[CH:11]=[CH:12][C:13](=[N+:14](C)C)[CH:62]=[CH:61]3)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C(C)=C1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C[C:61]([N-:10][C:71](C)=[O:72])=[O:62].N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>C[C:61]([N:10]([CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33](C#N)[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)[C:71](C)=[O:72])=[O:62] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.C[N:10]1CCCCC1>>C[N+:10]1([CH2:20][CH-:21][S:32](C2=CC=CC=C2)(=[O:33])=[O:34])CCCCC1 10=20;20,21=21"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].O=[N+]([O-])[C:73]1=[CH:74][CH:82]=[CH:83][C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[CH:72]1>>O=[N+]([O-])[C:73]1=[CH:74][CH:82]=[CH:83][C:71]([CH:10]([N+:11](=[O:12])[O-:62])[CH:20]([C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[CH:72]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:21](=[CH2:20])[C:22](=[O:23])[O:33]C1.CC[O:62]/[C:11](=[C:10](\C1=CC=CC=C1)[C:71]#[N:72])[O-:12]>>CC[O:62][C:11]([C:10](C1=CC=CC=C1)([CH2:20][C:21]1=[C:22]([O-:23])[O:33]CCC1)[C:71]#[N:72])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1C[S:31][CH+:20][S:41]C1.C[C:72]1=[CH:71][N-:10][CH:61]=[N:62]1>>C[C:72]1=[CH:71][N:10]([CH:20]2[S:31]CCC[S:41]2)[CH:61]=[N:62]1 10=20
"CO/[C:10](C1=CC=CC=C1)=[C:11]1\[N:12](C)[C:64]2=[C:63](C=CC=C2)[S:62]1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CO[C:10](C1=CC=CC=C1)([C:11]1=[N+:12](C)[C:64]2=[C:63](C=CC=C2)[S:62]1)[CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21"
"CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CC[O:72]1>>CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]2CC[O:72][C:11]2=[O+:12][Si:63](C)(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.C1C[N:10]=[C:11]2[N:12](C1)CC[S:62]2>>C1=CC=C([CH:20]([N:10]2CCC[N+:12]3=[C:11]2[S:62]CC3)[CH:21]=[C:22]=[N-:23])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][C:61]([C:10](=[C:11](C)[O-:12])[C:81](=[O:82])[O:92]CC)=[O:62].[CH2:20]=[CH:21][C:22]#[N:23]>>CC[O:72][C:61]([C:10]([C:11](C)=[O:12])([CH2:20][CH:21]=[C:22]=[N-:23])[C:81](=[O:82])[O:92]CC)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C[CH+:20][C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C.[NH-:10][C:61]#[N:62]>>C[CH:20]([NH:10][C:61]#[N:62])[C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C 10=20
CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[NH2:10]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH2+:10]C)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
